US06649656B1
Synthesis of 4-(6-benzyloxy-2-naphthyloxy)benzoic acid
4-(6-Benzyloxy-2-naphthyloxy)benzoic acid ethyl ester (10.6 g, 26.2 mmol) was dissolved in a 2:1 mixture of THF and methanol (150 ml), added with 4N lithium hydroxide (33 ml) and stirred at room temperature. After completing the reaction, the reaction liquid was adjusted to pH 2 or thereabout with 1N hydrochloric acid, extracted with ethyl acetate, washed with water, dried with magnesium sulfate and concentrated to obtain the subject compound (8.70 g, 23.4 mmol). The result of 1H-NMR was consistent with the above structure.

reactant | 4-(6-Benzyloxy-2-naphthyloxy)benzoic acid ethyl ester | 26.2 mmol, 10.6 g | C(C)OC(C1=CC=C(C=C1)OC1=CC2=CC=C(C=C2C=C1)OCC1=CC=CC=C1)=O | C26H22O4
reactant | lithium hydroxide | 4N, 33 ml | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | methanol | 150 ml | CO | CH4O
product | 4-(6-benzyloxy-2-naphthyloxy)benzoic acid | 23.4 mmol, 8.70 g, Yield: 88% | C(C1=CC=CC=C1)OC=1C=C2C=CC(=CC2=CC1)OC1=CC=C(C(=O)O)C=C1 | C24H18O4
